US08049015B2
Synthesis of [5-{2-[(N-Cyclopropanecarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-(2,2,2-trifluoro-ethoxy)-pyridin-3-yl]-acetic acid (Compound 39)
(5-{2-[(N-Cyclopropanecarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-hydroxy-pyridin-3-yl)-acetic acid ethyl ester (0.175 g, 0.39 mmol), 2,2,2-trifluoroethyl tosylate (0.151 g, 0.58 mmol), and potassium carbonate (0.070 g, 0.51 mmol) were combined in DMF (1.8 mL) and stirred at 55° C. overnight. Additional 2,2,2-trifluoroethyl tosylate and potassium carbonate were added, and the reaction was stirred at 75° C. overnight. After cooling, the crude material was used directly in the hydrolysis step. The ester was hydrolyzed to the acid as described in Example 3, Step 7. The acid was purified by preparative HPLC.

reactant | (5-{2-[(N-Cyclopropanecarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-hydroxy-pyridin-3-yl)-acetic acid ethyl ester | 0.39 mmol, 0.175 g | C(C)OC(CC=1C=NC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)C1CC1)O)=O | C23H25F3N2O4
reactant | 2,2,2-trifluoroethyl tosylate | 0.58 mmol, 0.151 g | S(=O)(=O)(OCC(F)(F)F)C1=CC=C(C)C=C1 | C9H9F3O3S
reactant | potassium carbonate | 0.51 mmol, 0.070 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | [5-{2-[(N-Cyclopropanecarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-(2,2,2-trifluoro-ethoxy)-pyridin-3-yl]-acetic acid | C1(CC1)C(=O)N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=NC1OCC(F)(F)F)CC(=O)O | C23H22F6N2O4
